US05294721
1-(Ethoxycarbonylmethyl)pyridinium Chloride (III)
Pyridine (1 equivalent) and ethyl chloroacetate (1 equivalent) in ethyl acetate were heated (70° C.) for 24 hours. The reaction mixture was cooled to room temperature and the resulting crystalline pyridinium salt filtered, washed with ethyl acetate, and dried in vacuum.

reactant | Pyridine | 1 equivalent | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroacetate | 1 equivalent | ClCC(=O)OCC | C4H7ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(Ethoxycarbonylmethyl)pyridinium Chloride | [Cl-].C(C)OC(=O)C[N+]1=CC=CC=C1 | InChI=1S/C9H12NO2.ClH/c1-2-12-9(11)8-10-6-4-3-5-7-10;/h3-7H,2,8H2,1H3;1H/q+1;/p-1
